US04829099
Bis-(4-nitrobenzoyl)-dipropylene glycol (50 g, 0.134 mole, from Part A) was hydrogenated in the usual manner over palladium on carbon (10%, 4 g). The product crystallized during drying over MgSO4. The solution was therefore heated to boiling, filtered hot and crystallization effected by addition of hexanes to give bis-(4-aminobenzoyl)-dipropylene glycol (29 g) as an offwhite solid, m.p. 163°-165° C. which was homogeneous by TLC.

reactant | Bis-(4-nitrobenzoyl)-dipropylene glycol | [N+](=O)([O-])C1=CC=C(C(=O)C(C(COC(C)CO)O)C(C2=CC=C(C=C2)[N+](=O)[O-])=O)C=C1 | C20H20N2O9
catalyst | palladium on carbon | 4 g | [Pd] | Pd
product | bis-(4-aminobenzoyl)-dipropylene glycol | 29 g | NC1=CC=C(C(=O)C(C(COC(C)CO)O)C(C2=CC=C(C=C2)N)=O)C=C1 | C20H24N2O5
